US04780528
(E) α-Aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester
A solution of 1.8 g α-aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride in 50 ml water was allowed to pass through a column (50 ml) packed with a weakly basic anion-exchange resin (Dow Chemical Co., "IRA-68"), and the resin was washed with 100 ml water. The washings were added to the effluent, and the combined solution was concentrated under reduced pressure, giving 1.4 g of white powder. M.p.: 168°-170° C.

reactant | α-aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride | 1.8 g | Cl.COC([C@@H](NC([C@@](NC(C(C)C)=O)(CC(O)=O)N)=O)CC1=CC=CC=C1)=O
solvent | water | 50 ml | O | H2O
product | α-Aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester | 1.4 g | COC([C@@H](NC([C@@](NC(C(C)C)=O)(CC(O)=O)N)=O)CC1=CC=CC=C1)=O | C18H25N3O6
